US08466114B2
To a stirred solution of (2S,3R,4R,5S,6R)-2-[4-chloro-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (0.1 g, 0.23 mmol) in DMF (2 mL) was added potassium carbonate (0.065 g, 0.47 mmol, ethyl iodide (0.028 mL, 0.35 mmol) and stirred the solution at 20° C. for 2 h. Reaction mixture was quenched by the addition of water (2 mL), extracted with dichloromethane (3×5 mL). The organic layer was washed with water (5 mL), brine (5 mL), dried over sodium sulfate, concentrated and purified by preparative HPLC to furnish (2S,3R,4R,5S,6R)-2-[4-chloro-3-(4-ethyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol (20 mg).

reactant | (2S,3R,4R,5S,6R)-2-[4-chloro-3-(3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 0.23 mmol, 0.1 g | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=CC2=C(NCCO2)C1 | C21H24ClNO6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 0.35 mmol, 0.028 mL | C(C)I | C2H5I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (2S,3R,4R,5S,6R)-2-[4-chloro-3-(4-ethyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethyl)-phenyl]-6-hydroxymethyl-tetrahydro-pyran-3,4,5-triol | 20 mg | ClC1=C(C=C(C=C1)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1O)O)O)CO)CC=1C=CC2=C(N(CCO2)CC)C1 | C23H28ClNO6
